US05883106
4-Hydroxyiminomethyl-4-[3-[4-(2-methylimidazol-1-yl)phenylthio]phenyl]-3,4,5,6-tetrahydro-2H-pyran
4-[3-[4-(2-Methylimidazol-1-yl)phenylthio]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carbaldehyde (178 mg, 0.47 mmol) and hydroxylamine hydrochloride (210 mg, 3 mmol) were dissolved in a mixture of methanol (4 ml) and pyridine (1 ml) and the reaction mixture was stirred for 5 h at ambient temperature. Volatiles were removed in vacuo and the resultant residue was diluted with 0.1N aqueous NaOH (20 ml) and extracted with ethyl acetate (30 ml×3). The combined organic layers were washed with water (50 ml) and brine (50 ml), dried (MgSO4) and concentrated in vacuo. The residual solids were recrystallized from ethyl acetate to afford 130 mg (70%) of the titled compound as white solids.

reactant | 4-[3-[4-(2-Methylimidazol-1-yl)phenylthio]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carbaldehyde | 0.47 mmol, 178 mg | CC=1N(C=CN1)C1=CC=C(C=C1)SC=1C=C(C=CC1)C1(CCOCC1)C=O | C22H22N2O2S
reactant | hydroxylamine hydrochloride | 3 mmol, 210 mg | Cl.NO
solvent | methanol | 4 ml | CO | CH4O
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 4-Hydroxyiminomethyl-4-[3-[4-(2-methylimidazol-1-yl)phenylthio]phenyl]-3,4,5,6-tetrahydro-2H-pyran | 130 mg, 70% | ON=CC1(CCOCC1)C1=CC(=CC=C1)SC1=CC=C(C=C1)N1C(=NC=C1)C | C22H23N3O2S
